US04927829
3-Ethoxycarbonyl-9-[(1-(2-methoxyphenyl)piperazine-4-yl)-carbonylthio]-4-oxo-4H-pyrido[1,2-a]pyrimidine (I a-2)
To a solution of 1.0 g (4 mmol) of 3-ethoxycarbonyl-9-mercapto-4-oxo-4H-pyrido[1,2-a]pyrimidine (II-1) in 40 ml of dry methylene chloride is added 0.24 ml (2 mmol) of trichloromethyl chloroformate, and the resultant mixture is stirred for 10 min. and concentrated at room temperature under atmospheric pressure. To the residue are added 60 ml of dry methylene chloride and 0.77 ml (44 mmol) of 4-(2-methoxyphenyl)piperazine under ice-cooling, and the reaction mixture is stirred for 1 hour at room temperature. The reaction mixture is washed with N--HCl, saturated aqueous NaHCO3 and water in order, and the organic layer is dried and concentrated under reduced pressure. The oily residue in 1.94 g is chromatographed on a column of silica gel eluting with ethyl acetate to give 45 mg of Ia-2 (m.p. 154°-156° C. recrystallized from chloroform-n-hexane) and 516 mg of IV-2 (m.p. 151°-153° C. recrystallized from ethyl acetate).

reactant | 3-ethoxycarbonyl-9-mercapto-4-oxo-4H-pyrido[1,2-a]pyrimidine | 4 mmol, 1.0 g | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2S | C11H10N2O3S
reactant | trichloromethyl chloroformate | 2 mmol, 0.24 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 4-(2-methoxyphenyl)piperazine | 44 mmol, 0.77 ml | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-Ethoxycarbonyl-9-[(1-(2-methoxyphenyl)piperazine-4-yl)-carbonylthio]-4-oxo-4H-pyrido[1,2-a]pyrimidine | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2SC(=O)N2CCN(CC2)C2=C(C=CC=C2)OC | C23H24N4O5S
